US06670373B1
4-Ethoxycarbonyl-5-methyl-3-(2,4-difluorophenyl)isoxazole (305 mg, 1.14 mmol), 5N NaOH (1.0 ml, 5 mmol), methanol (5 ml), and THF (1 ml) were heated at 50° C. for 16 h. Ice was added and the pH was adjusted to 2-3 with 1N HCl. Extraction with EtOAc followed by washing (brine), drying (Na2SO4), filtering, and concentration gave the crude 4-carboxy-5-methyl-3-(2,4-difluorophenyl)isoxazole (286 mg, 99%) which was used without further purification.

reactant | 4-Ethoxycarbonyl-5-methyl-3-(2,4-difluorophenyl)isoxazole | 1.14 mmol, 305 mg | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=C(C=C1)F)F | C13H11F2NO3
reactant | NaOH | 5 mmol, 5N, 1.0 ml | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-carboxy-5-methyl-3-(2,4-difluorophenyl)isoxazole | 286 mg, 99% | C(=O)(O)C=1C(=NOC1C)C1=C(C=C(C=C1)F)F | C11H7F2NO3
